US08314100B2
1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine (Compound 35)
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2-chlorophenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound (yield, 76%). 1H NMR (300 MHz, CDCl3): δ 3.08-3.17 (m, 4H), 3.78-3.86 (m, 3H), 4.09-4.15 (m, 4H), 7.00-7.07 (m, 2H), 7.20-7.45 (m, 5H), 7.65-7.84 (m, 1H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-(2-chlorophenyl)piperazine | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine | 76% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl | C20H19Cl2N5O2
